US08859606B2
1-(2-Benzyloxy-5-bromo-benzyl)-5-Trifluoromethyl-1H-pyrazole-3-carboxylic acid ethyl ester, 77
To a solution of 5-trifluoromethyl-1H-pyrazole-3-carboxylic acid ethyl ester (0.114 g, 0.55 mmol) and 1-benzyloxy-4-bromo-2-bromomethyl-benzene (0.196 g, 0.55 mmol) in DMF (2 ml) cooled at RT under N2 atmosphere was added K2CO3 (0.19 g, 1.375 mmol) The mixture was stirred at RT overnight, then acidified with HCl (2M, aq.) and extracted with EtOAc. The organic layer was separated, washed with brine, dried (MgSO4) and evaporated to dryness. The residue was purified by MPLC (10 g SiO2 cartridge, eluent 90% iso-hexane-10% EtOAc) yielding 0.18 g of title compound.

reactant | 5-trifluoromethyl-1H-pyrazole-3-carboxylic acid ethyl ester | 0.55 mmol, 0.114 g | C(C)OC(=O)C1=NNC(=C1)C(F)(F)F | C7H7F3N2O2
reactant | 1-benzyloxy-4-bromo-2-bromomethyl-benzene | 0.55 mmol, 0.196 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)Br)CBr | C14H12Br2O
reactant | K2CO3 | 1.375 mmol, 0.19 g | C(=O)([O-])[O-].[K+].[K+]
reactant | HCl | 2M | Cl | ClH
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | 1-(2-Benzyloxy-5-bromo-benzyl)-5-Trifluoromethyl-1H-pyrazole-3-carboxylic acid ethyl ester | 0.18 g | C(C)OC(=O)C1=NN(C(=C1)C(F)(F)F)CC1=C(C=CC(=C1)Br)OCC1=CC=CC=C1 | C21H18BrF3N2O3
